US08232284B2
Cesium carbonate (2.9 g, 8.9 mmol) and 2-(2-bromoethyl)-1,3-dioxolane (990 mg, 5.0 mmol) were added to an N,N-dimethylformamide suspension (10 ml) of 5-chloro-6-fluoropyridin-3-ol (570 mg, 3.9 mmol), and stirred at 100° C. for 4 hours. The reaction solution was cooled to room temperature, water was added, and extracted with ethyl acetate. The organic layer was washed with water and saturated saline water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=70:30) to obtain 3-chloro-5-(2,2-diethoxyethoxy)-2-fluoropyridine (640 mg, yield: 62%) as a colorless oil.

reactant | Cesium carbonate | 8.9 mmol, 2.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 5.0 mmol, 990 mg | BrCCC1OCCO1 | C5H9BrO2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 5-chloro-6-fluoropyridin-3-ol | 3.9 mmol, 570 mg | ClC=1C=C(C=NC1F)O | C5H3ClFNO
solvent | water | O | H2O
product | 3-chloro-5-(2,2-diethoxyethoxy)-2-fluoropyridine | 640 mg, yield: 62% | ClC=1C(=NC=C(C1)OCC(OCC)OCC)F | C11H15ClFNO3
